2173-01-13 05:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2173-1-12**] 05:30 PM
 ARTERIAL LINE - STOP [**2173-1-12**] 06:55 PM
 ARTERIAL LINE - START [**2173-1-12**] 07:00 PM
   - A-line placed: L radial
   - started on neo, milrinone
   - lasix 80mg IV bolus, 10mg gtt, UOP 200cc/hr, decreased to 5mg
   overnight; -1L
   - 15 beat run of VT, checked K 3.2; repleted, decreased ectopy
   - choking/coughing with any PO intake
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Phenylephrine - 0.3 mcg/Kg/min
   Milrinone - 0.375 mcg/Kg/min
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2173-1-12**] 09:30 PM
   Insulin - Humalog - [**2173-1-12**] 10:42 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-1-13**] 05:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 36
C (96.8
   HR: 83 (80 - 87) bpm
   BP: 91/44(56) {55/38(22) - 98/51(63)} mmHg
   RR: 23 (12 - 23) insp/min
   SpO2: 98%
   Heart rhythm: AV Paced
   Height: 72 Inch
             Total In:
                                                                  1,133 mL
                                                                    226 mL
   PO:
             100 mL
   TF:
   IVF:
                                                                    123 mL
                                                                    126 mL
   Blood products:
   Total out:
                                                                  1,775 mL
                                                                  1,160 mL
   Urine:
                                                                  1,025 mL
                                                                  1,160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -642 mL
                                                                   -934 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///36/
   Physical Examination
   GENERAL: NAD. Alert & oriented x3.  affect flat, appears depressed
   NECK: Supple with JVP at earlobe.
   CARDIAC: RRR, normal S1, S2. 2/6 SEM heard best at RUSB.  No r/g. No
   thrills, lifts. No S3 or S4.
   LUNGS: +rales bilat to mid-lung zone, no wheezes or rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. No abdominal bruits.
   EXTREMITIES: 1+ pedal edema.  No c/c. wwp
   PULSES:
   Right: Carotid 2+ DP 1+ PT 1+
   Left: Carotid 2+  DP 1+ PT 1+
   NEURO: CN 2-12 intact, strength 5/5 in UE and LE bilat.  Sensation
   intact to light touch.
   Labs / Radiology
   121 K/uL
   8.9 g/dL
   185 mg/dL
   2.2 mg/dL
   36 mEq/L
    3.2 mEq/L
   51 mg/dL
   86 mEq/L
   131 mEq/L
   29.3 %
   9.3 K/uL
        [image002.jpg]
                            [**2173-1-13**]  02:21 AM
   WBC
   9.3
   Hct
   29.3
   Plt
   121
   Cr
   2.2
   Glucose
   185
   Other labs: PT / PTT / INR:27.4/42.3/2.7, Ca++:9.1 mg/dL, Mg++:2.4
   mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   Mr [**Known lastname **] is a 68 yo gentleman with hx CABG, MI x2, of stage IV heart
   failure admitted for CHF exacerbation (EF 20%) transferred to CCU for
   hypotension.
   # Acute on chronic systolic heart failure: LVEF of 15-20%. Patient's
   reported dry weight was 197 lbs.  In chart noted to be 204lbs.  Patient
   with volume overload on exam with elevated JVP and crackles. Diuresis
   on floor limited by hypotension.  Started on Milrinone in the CCU with
   low dose phenlephrine for pressure support.
   - continue milrinone
   - phenylephrine if needed for hypotension
 try to wean today
   -continue lasix gtt
   -continue PO metolazone and acetazolamide
   -PRN nebs
   -holding ACE/[**Last Name (un) 284**] for now given hypotension, will consider starting on
   DC if pressures improve
   -consider spironolactone
   -MAP goal 50-55, I/O goal -2L
   # CAD: h/o of CAD; however patent LIMA and SMG grafts in [**6-1**], low
   concern for ACS at this time.
   -continue aspirin, statin, plavix, clopidogrel
   -hold metoprolol given hypotension
   # Atrial fibrillation: hx afib, on warfarin since [**2172-8-29**]. Pt was
   cardioverted [**1-11**]
   -hold metoprolol as above
   -dig held [**3-2**] to high level
   -pt therapeutic on warfarin
   -continue amiodarone, pt received 3 days of 400 mg TID. Switched to 400
   mg [**Hospital1 **] x 1 wk on [**2173-1-11**], then 200 mg [**Hospital1 **] x 2 wks, then 200 mg/day.
   .
   # Hypotension: low BP at baseline 80s-90s systolic at baseline, likely
   due to poor systolic function. Patient mildly symptomatic at SBP 70
   earlier today.  BP at baseline on milrinone with phenylephrine for
   pressure support.
   -hold ACE/[**Last Name (un) 284**] given hypotension
   -continue with lasix gtt, will decrease for pressures <80
   .
   # Hypoxia: Patient with minimal O2 requirement currently.  Has improved
   with diuresis, but new cough.  No WBC or fever to indicate PNA.  Pt
   also with ? underlying lung disease (COPD, pulm fibrosis) which may be
   contributing. Concern for aspiration event vs volume overload. CXR
   today is similar to previous.
   -continue diuresis as above
   -O2 to maintain sats in 90s
   -PRN nebs
   -guaifenesin
   # CKD: Pt with history of stage II CKD, creatinine trending up with
   lasix.
   -follow creatinine
   # Anemia: no evidence of active bleed, however significantly decreased
   from baseline. Guaiac negative today. Fe studies c/w iron deficiency
   anemia.  Crit stable for several days now.
   -guaiac all stools
   -iron supplementation
   # Metabolic alkaloisis: appears to be chronic, most likely due to
   contraction alkalosis in the setting of aggressive diuresis.
   -follow bicarb, resp status
   .
   # Seasonal allergies
   -continue fexofenadine, montelukast
   .
   # Hypothyroidism: TSH elevated but levothyroxine recently increased as
   an outpatient.
   -continue levothyroxine at current dose, re-check TSH in 4 wks.
   .
   # GERD: continue ranitidine
   .
   # Diabetes: stable on Levemir as an outpatient. Sugars stable o/n.
   -continue glargine at 26 q day
   -ISS
   .
   # Depressed mood: Flat affect. SW consult appreciated.
   .
   # Bowel Incontinence: Pt with normal rectal tone and neuro exam.  Most
   likely secondary to aggressive bowel regimen in the setting of
   constipation.
   -hold bowel regimen
   .
   FEN: NPO except meds crushed in puree.  Speech and swallow in am.
   ACCESS: PIV's; will place central line if needed.
   PROPHYLAXIS:
   -therapeutic on Warfarin for DVT prophylaxis
   -Pain management with tylenol, gabapentin, tramadol
   -Bowel regimen as above
   CODE: Confirmed full with pt and Wife, [**Name (NI) 2316**], is HCP ([**Telephone/Fax (1) 9899**])
   DISPO: CCU for now.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2173-1-12**] 02:23 PM
   Arterial Line - [**2173-1-12**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   Above discussed extensively with patient. Progress reviewed extensively
   during family meeting.
   Total time spent on patient care: 60 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) **]  on:[**2173-1-13**]
   12:30 ------

2173-01-14 07:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2173-1-13**] 03:00 PM
   - speech/ swallow recs: pt ok with nectar-thickened liquids.  if chokes
   would likely require honey thickened liquids although pt may refuse.
   He understands risks of aspiration
   - changed code status to DNR/DNI; confirmed with Dr. [**First Name (STitle) **]; SW to see
   - increased milirinone gtt to 5
   - decreased coumadin to 2 mg for today only for INR of 2.7
   - picc line placed
   - -2.3 L/day with no significant change in renal function
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Phenylephrine - 0.5 mcg/Kg/min
   Furosemide (Lasix) - 7 mg/hour
   Milrinone - 0.5 mcg/Kg/min
   Other ICU medications:
   Coumadin (Warfarin) - [**2173-1-13**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-1-14**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.9
C (96.7
   HR: 85 (80 - 87) bpm
   BP: 106/53(69) {78/39(50) - 107/55(69)} mmHg
   RR: 13 (10 - 24) insp/min
   SpO2: 96%
   Heart rhythm: AV Paced
   Wgt (current): 88.9 kg (admission): 91.6 kg
   Height: 72 Inch
             Total In:
                                                                  1,287 mL
                                                                    567 mL
   PO:
                                                                    540 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    747 mL
                                                                    327 mL
   Blood products:
   Total out:
                                                                  3,700 mL
                                                                  1,120 mL
   Urine:
                                                                  3,700 mL
                                                                  1,120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,413 mL
                                                                   -553 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///37/
   Physical Examination
   Gen: AOx3, resting comfortably in bed
   Neck: JVP 10cm
   Chest: CTA b/l, no wheezing/rales
   CV: S1S2, systolic murmur heard best at RUSB
   Abd: soft, nt, nd, +bs
   Ext: decreased thigh and LE edema, 1+ pitting edema b/l LE, +dp pulses
   Labs / Radiology
   162 K/uL
   8.9 g/dL
   201 mg/dL
   2.1 mg/dL
   37 mEq/L
   3.3 mEq/L
   48 mg/dL
   84 mEq/L
   130 mEq/L
   29.4 %
   10.8 K/uL
        [image002.jpg]
                            [**2173-1-13**]  02:21 AM
                            [**2173-1-13**]  04:59 PM
                            [**2173-1-14**]  03:01 AM
   WBC
   9.3
   10.8
   Hct
   29.3
   29.4
   Plt
   121
   162
   Cr
   2.2
   2.1
   2.1
   Glucose
   185
   229
   201
   Other labs: PT / PTT / INR:35.2/43.6/3.6, Ca++:9.1 mg/dL, Mg++:2.3
   mg/dL, PO4:3.3 mg/dL
   IMAGING:
   [**1-13**] CXR: There has been interval worsening of the right basilar
   opacities, denoting increased atelectasis. There is no pneumothorax.
   Left-sided pacemaker and multiple sternal wires are unchanged in
   position.
   Assessment and Plan
   Mr [**Known lastname **] is a 68 yo gentleman with hx CABG, MI x2, of stage IV heart
   failure admitted for CHF exacerbation (EF 20%) transferred to CCU for
   hypotension.
   # Acute on chronic systolic heart failure: LVEF of 15-20%. Patient's
   reported dry weight was 197 lbs.  In chart noted to be 204lbs.  Patient
   with volume overload on exam with elevated JVP and crackles. Diuresis
   on floor limited by hypotension.  Started on Milrinone in the CCU with
   low dose phenlephrine for pressure support.
   - continue milrinone
   - phenylephrine as needed for hypotension
   -continue lasix gtt
   -continue PO metolazone and acetazolamide
   -PRN nebs
   -holding ACE/[**Last Name (un) 284**] for now given hypotension
   -MAP goal 50-55, I/O goal -3L
   # CAD: h/o of CAD; however patent LIMA and SMG grafts in [**6-1**], low
   concern for ACS at this time.
   -continue aspirin, statin, plavix, clopidogrel
   -hold metoprolol given hypotension
   # Atrial fibrillation: hx afib, on warfarin since [**2172-8-29**]. Pt was
   cardioverted [**1-11**]
   -hold metoprolol as above
   -dig held [**3-2**] to high level
   -pt supratherapeutic on warfarin
 hold dose today
   -continue amiodarone, pt received 3 days of 400 mg TID. Switched to 400
   mg [**Hospital1 **] x 1 wk on [**2173-1-11**], then 200 mg [**Hospital1 **] x 2 wks, then 200 mg/day.
   .
   # Hypotension: low BP at baseline 80s-90s systolic at baseline, likely
   due to poor systolic function. Patient mildly symptomatic at SBP 70
   earlier today.  BP at baseline on milrinone with phenylephrine for
   pressure support.
   -hold ACE/[**Last Name (un) 284**] given hypotension
   -continue with lasix gtt, will decrease for pressures <80
   - if decreased BP today, first d/c lasix, then wean milrinone
   .
   # Hypoxia: Patient with minimal O2 requirement currently.  Has improved
   with diuresis, but new cough.  No WBC or fever to indicate PNA.  Pt
   also with ? underlying lung disease (COPD, pulm fibrosis) which may be
   contributing. Concern for aspiration event vs volume overload. CXR
   today is similar to previous.
   -continue diuresis as above
   -O2 to maintain sats in 90s
   -PRN nebs
   -guaifenesin
   # CKD: Pt with history of stage II CKD, creatinine trended up with
   lasix
 currently stable at 2.1.
   -follow creatinine
   # Anemia: no evidence of active bleed, however significantly decreased
   from baseline. Guaiac negative today. Fe studies c/w iron deficiency
   anemia.  Crit stable for several days now.
   -guaiac all stools
   -iron supplementation
   # Metabolic alkaloisis: appears to be chronic, most likely due to
   contraction alkalosis in the setting of aggressive diuresis.
   -follow bicarb, resp status
   .
   # Seasonal allergies
   -continue fexofenadine, montelukast
   .
   # Hypothyroidism: TSH elevated but levothyroxine recently increased as
   an outpatient.
   -continue levothyroxine at current dose, re-check TSH in 4 wks.
   .
   # GERD: continue ranitidine
   .
   # Diabetes: stable on Levemir as an outpatient. Sugars stable o/n.
   -continue glargine at 26 q day
   -ISS
   .
   # Depressed mood: Flat affect. SW consult appreciated.
   .
   # Bowel Incontinence: Pt with normal rectal tone and neuro exam.  Most
   likely secondary to aggressive bowel regimen in the setting of
   constipation.
   -hold bowel regimen
   .
   FEN: NPO except meds crushed in puree.  Speech and swallow in am.
   ACCESS: PIV's; will place central line if needed.
   PROPHYLAXIS:
   -therapeutic on Warfarin for DVT prophylaxis
   -Pain management with tylenol, gabapentin, tramadol
   -Bowel regimen as above
   CODE: DNR/DNI confirmed with pt
   [**Name (NI) **]: pt and Wife, [**Name (NI) 2316**], is HCP ([**Telephone/Fax (1) 9899**])
   DISPO: CCU for now. Palliative care c/s today. Likely d/c home with
   hospice tomorrow after further diuresis.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2173-1-12**] 02:23 PM
   Arterial Line - [**2173-1-12**] 07:00 PM
   PICC Line - [**2173-1-13**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Above discussed extensively with patient.
   Total time spent on patient care: 60 minutes.
   Additional comments:
   signed [**2173-1-15**]
   service provided [**2173-1-14**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) **]  on:[**2173-1-15**]
   17:59 ------

2173-01-15 07:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Palliative care - no escalation of care, wife understands.  need to
   turn off ICD if this is our goal.
   - UOP 1.5 neg, went up on lasix drip to 9.
   No SOB this AM. Pt is comfortable with no complaints.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Milrinone - 0.5 mcg/Kg/min
   Furosemide (Lasix) - 9 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-1-15**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.6
   HR: 92 (82 - 97) bpm
   BP: 87/40(54) {79/40(52) - 116/58(74)} mmHg
   RR: 14 (13 - 20) insp/min
   SpO2: 97%
   Heart rhythm: AV Paced
   Wgt (current): 87.7 kg (admission): 91.6 kg
   Height: 72 Inch
             Total In:
                                                                  2,416 mL
                                                                    567 mL
   PO:
                                                                  1,440 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    976 mL
                                                                    207 mL
   Blood products:
   Total out:
                                                                  4,150 mL
                                                                  1,170 mL
   Urine:
                                                                  4,150 mL
                                                                  1,170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,734 mL
                                                                   -603 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///38/
   Physical Examination
   Gen: AOx3, resting comfortably in bed
   Neck: no JVD
   Chest: CTA b/l, no wheezing/rales
   CV: S1S2, systolic murmur heard best at RUSB
   Abd: soft, nt, nd, +bs
   Ext: no LE edema, +dp pulses
   Labs / Radiology
   143 K/uL
   8.8 g/dL
   181 mg/dL
   1.9 mg/dL
   38 mEq/L
   3.1 mEq/L
   40 mg/dL
   85 mEq/L
   129 mEq/L
   28.6 %
   9.6 K/uL
        [image002.jpg]
                            [**2173-1-13**]  02:21 AM
                            [**2173-1-13**]  04:59 PM
                            [**2173-1-14**]  03:01 AM
                            [**2173-1-14**]  04:56 PM
                            [**2173-1-15**]  04:25 AM
   WBC
   9.3
   10.8
   9.6
   Hct
   29.3
   29.4
   28.6
   Plt
   121
   162
   143
   Cr
   2.2
   2.1
   2.1
   2.0
   1.9
   Glucose
   185
   229
   201
   255
   181
   Other labs: PT / PTT / INR:40.9/50.2/4.3, Ca++:9.0 mg/dL, Mg++:2.3
   mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   Mr [**Known lastname **] is a 68 yo gentleman with hx CABG, MI x2, of stage IV heart
   failure admitted for CHF exacerbation (EF 20%) transferred to CCU for
   hypotension.
   # Acute on chronic systolic heart failure: LVEF of 15-20%. Patient's
   reported dry weight was 197 lbs.  In chart noted to be 204lbs.  Patient
   with volume overload on exam with elevated JVP and crackles. Diuresis
   on floor limited by hypotension.  Started on Milrinone in the CCU. Pt
   has been weaned off phenylephrine.
   - d/c milrinone and lasix gtt
   - start Torsemide 60mg PO BID
   -continue PO metolazone and acetazolamide
   -PRN nebs
   -holding ACE/[**Last Name (un) 284**] for now given hypotension
   -MAP goal 50-55, I/O goal -3L
   # CAD: h/o of CAD; however patent LIMA and SMG grafts in [**6-1**], low
   concern for ACS at this time.
   -continue aspirin, statin, plavix
   -hold metoprolol given hypotension
   # Atrial fibrillation: hx afib, on warfarin since [**2172-8-29**]. Pt was
   cardioverted [**1-11**]
   -hold metoprolol as above
   -dig held [**3-2**] to high level
   -pt supratherapeutic on warfarin
 hold dose today
   -continue amiodarone, pt received 3 days of 400 mg TID. Switched to 400
   mg [**Hospital1 **] x 1 wk on [**2173-1-11**], then 200 mg [**Hospital1 **] x 2 wks, then 200 mg/day.
   .
   # Hypotension: resolved.
   - monitor BP
   # Hypoxia: Patient with minimal O2 requirement currently.  Has improved
   with diuresis.
   -continue diuresis as above
   -O2 to maintain sats in 90s
   -PRN nebs
   -guaifenesin
   # CKD: Pt with history of stage II CKD, creatinine trended up with
   lasix
 currently improved to 1.9.
   -follow creatinine
   # Anemia: no evidence of active bleed, however significantly decreased
   from baseline. Guaiac negative. Fe studies c/w iron deficiency anemia.
   Crit stable for several days now.
   -guaiac all stools
   -iron supplementation
   # Metabolic alkaloisis: appears to be chronic, most likely due to
   contraction alkalosis in the setting of aggressive diuresis.
   -follow bicarb, resp status
   .
   # Seasonal allergies
   -continue fexofenadine, montelukast
   .
   # Hypothyroidism: TSH elevated but levothyroxine recently increased as
   an outpatient.
   -continue levothyroxine at current dose, re-check TSH in 4 wks.
   .
   # GERD: continue ranitidine
   .
   # Diabetes: stable on Levemir as an outpatient. Sugars stable o/n.
   -continue glargine at 26 q day
   -ISS
   .
   # Depressed mood: Flat affect. SW consult appreciated.  Palliative c/s
   appreciated.
   .
   # Bowel Incontinence: Pt with normal rectal tone and neuro exam.  Most
   likely secondary to aggressive bowel regimen in the setting of
   constipation.
   -hold bowel regimen
   .
   FEN: Regular diet with nectar thick liquids
   ACCESS: PIV's; PICC, arterial line.
   PROPHYLAXIS:
   -therapeutic on Warfarin for DVT prophylaxis
   -Pain management with tylenol, gabapentin, tramadol
   -Bowel regimen as above
   CODE: DNR/DNI confirmed with pt, no escalation of care, defibrillator
   shut off
   [**Hospital1 **]: pt and Wife, [**Name (NI) 2316**], is HCP ([**Telephone/Fax (1) 9899**])
   DISPO: CCU for now. Plan to d/c to rehab vs hospice
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2173-1-12**] 02:23 PM
   Arterial Line - [**2173-1-12**] 07:00 PM
   PICC Line - [**2173-1-13**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Above discussed extensively with patient.
   Total time spent on patient care: 60 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) **]  on:[**2173-1-15**]
   18:00 ------

2173-01-16 07:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2173-1-15**] 05:01 PM
   - ICD turned off
   - d/c'd milrinone and lasix gtt
   - started on torsemide 60mg PO BID
   - Palliative care: add goals of care section to d/c summary, transfer
   from [**Hospital1 69**] to hospice if decompensating on current therapy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-1-16**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.4
C (97.6
   HR: 84 (82 - 96) bpm
   BP: 92/65(71) {91/15(42) - 122/65(71)} mmHg
   RR: 21 (11 - 21) insp/min
   SpO2: 95%
   Heart rhythm: AV Paced
   Wgt (current): 83.3 kg (admission): 91.6 kg
   Height: 72 Inch
                  Total In:
                                                                  2,091 mL
                                                                    480 mL
   PO:
                                                                  1,650 mL
                                                                    480 mL
   TF:
   IVF:
                                                                    441 mL
   Blood products:
   Total out:
                                                                  3,340 mL
                                                                    900 mL
   Urine:
                                                                  3,340 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,249 mL
                                                                   -420 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///38/
   Physical Examination
   Gen: AOx3, resting comfortably in bed
   Neck: no JVD
   Chest: bibasilar rales, no wheezing/rales
   CV: S1S2, systolic murmur heard best at RUSB
   Abd: soft, nt, nd, +bs
   Ext: no LE edema, +dp pulses
   Labs / Radiology
   129 K/uL
   9.7 g/dL
   109 mg/dL
   1.7 mg/dL
   38 mEq/L
   3.2 mEq/L
   38 mg/dL
   83 mEq/L
   130 mEq/L
   33.1 %
   9.8 K/uL
        [image002.jpg]
                            [**2173-1-13**]  02:21 AM
                            [**2173-1-13**]  04:59 PM
                            [**2173-1-14**]  03:01 AM
                            [**2173-1-14**]  04:56 PM
                            [**2173-1-15**]  04:25 AM
                            [**2173-1-15**]  04:58 PM
                            [**2173-1-16**]  05:17 AM
   WBC
   9.3
   10.8
   9.6
   9.8
   Hct
   29.3
   29.4
   28.6
   33.1
   Plt
   121
   162
   143
   129
   Cr
   2.2
   2.1
   2.1
   2.0
   1.9
   1.8
   1.7
   Glucose
   185
   229
   201
   255
   181
   184
   109
   Other labs: PT / PTT / INR:35.3/45.4/3.6, Ca++:9.3 mg/dL, Mg++:2.4
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   Mr [**Known lastname **] is a 68 yo gentleman with hx CABG, MI x2, of stage IV heart
   failure admitted for CHF exacerbation (EF 20%) transferred to CCU for
   hypotension.
   # Acute on chronic systolic heart failure: LVEF of 15-20%. Patient's
   reported dry weight was 197 lbs.  In chart noted to be 204lbs.  Patient
   with volume overload on exam with elevated JVP and crackles. Diuresis
   on floor limited by hypotension.  Started on Milrinone in the CCU. Pt
   has been weaned off phenylephrine.
   - Torsemide 40mg PO BID
   -continue PO metolazone
   -d/c acetazolamide
   -PRN nebs
   -holding BB/ACE
 end of life care
   # CAD: h/o of CAD; however patent LIMA and SMG grafts in [**6-1**], low
   concern for ACS at this time.
   -continue aspirin, statin, plavix
   -hold metoprolol given hypotension
   # Atrial fibrillation: hx afib, on warfarin since [**2172-8-29**]. Pt was
   cardioverted [**1-11**]
   -hold metoprolol as above
   -dig held [**3-2**] to high level
   -pt supratherapeutic on warfarin
 discontinue Warfarin as pt
   supratherapeutic on low dose and risks outweigh benefits
   -continue amiodarone, pt received 3 days of 400 mg TID. Switched to 400
   mg [**Hospital1 **] x 1 wk on [**2173-1-11**], then 200 mg [**Hospital1 **] x 2 wks, then 200 mg/day.
   .
   # Hypotension: resolved.
   - monitor BP
   # Hypoxia: Patient with minimal O2 requirement currently.  Has improved
   with diuresis.
   -continue diuresis as above
   -O2 to maintain sats in 90s
   -PRN nebs
   -guaifenesin
   # CKD: Pt with history of stage II CKD, creatinine trended up with
   lasix
 currently improved to 1.7.
   -follow creatinine
   # Anemia: no evidence of active bleed, however significantly decreased
   from baseline. Guaiac negative. Fe studies c/w iron deficiency anemia.
   Crit stable for several days now.
   -guaiac all stools
   -iron supplementation
   # Metabolic alkaloisis: appears to be chronic, most likely due to
   contraction alkalosis in the setting of aggressive diuresis.
   -follow bicarb, resp status
   .
   # Seasonal allergies
   -continue fexofenadine, montelukast
   .
   # Hypothyroidism: TSH elevated but levothyroxine recently increased as
   an outpatient.
   -continue levothyroxine at current dose, re-check TSH in 4 wks.
   .
   # GERD: continue ranitidine
   .
   # Diabetes: stable on Levemir as an outpatient. Sugars stable o/n.
   -continue glargine at 30 q day
   -ISS
   .
   # Depressed mood: Flat affect. SW consult appreciated.  Palliative c/s
   appreciated.
   .
   # Bowel Incontinence: Pt with normal rectal tone and neuro exam.  Most
   likely secondary to aggressive bowel regimen in the setting of
   constipation.
   -hold bowel regimen
   .
   FEN: Regular diet with nectar thick liquids
   ACCESS: PIV's; PICC, arterial line.
   PROPHYLAXIS:
   -therapeutic on Warfarin for DVT prophylaxis
   -Pain management with tylenol, gabapentin, tramadol
   -Bowel regimen as above
   CODE: DNR/DNI confirmed with pt, no escalation of care, defibrillator
   shut off
   COMM: pt and Wife, [**Name (NI) 2316**], is HCP ([**Telephone/Fax (1) 9899**])
   DISPO: likely d/c to rehab today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2173-1-13**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Above discussed extensively with patient.
   Total time spent on patient care: 45 minutes.
   Additional comments:
   now adequately volume unloaded
   pt with end-stage cardiac disease and failure
   transferring to [**Hospital1 **] for end-of-life care
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) **]  on:[**2173-1-16**]
   13:25 ------

2173-01-17 06:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - changed torsemide to 40 mg [**Hospital1 **]
   - d/ced bblocker, ACEI, digoxin, atorvostatin, coumadin
   - changed metalozone to 2.5mg QOD
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Metolazone 2.5 mg QOD
   Torsemide 40 PO BID
   Docusate
   Guaifenesin
   Lactulose/ bisacodyl/ senna/ polyethylene glycol
   Amiodarone 400mg [**Hospital1 **]
   Ferrous sulfate
   Trazadone
   Acetaminophen
   Tramadol
   Ipratroprium/ albuterol
   Levothyroxine 75 mcg
   Singulair
   ASA 325
   Plavix 75
   Ranitidine 150
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-1-17**] 06:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.4
C (97.5
   HR: 84 (82 - 90) bpm
   BP: 102/50(64) {94/48(59) - 111/75(80)} mmHg
   RR: 17 (12 - 25) insp/min
   SpO2: 98%
   Heart rhythm: AV Paced
   Wgt (current): 83.3 kg (admission): 91.6 kg
   Height: 72 Inch
             Total In:
                                                                  1,360 mL
                                                                    405 mL
   PO:
                                                                  1,010 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    350 mL
                                                                     45 mL
   Blood products:
   Total out:
                                                                  2,100 mL
                                                                    725 mL
   Urine:
                                                                  2,100 mL
                                                                    725 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -740 mL
                                                                   -320 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///35/
   Physical Examination
   Gen: AOx3, resting comfortably in bed
   Neck: no JVD
   Chest: bibasilar rales, no wheezing/rales
   CV: S1S2, systolic murmur heard best at RUSB
   Abd: soft, nt, nd, +bs
   Ext: no LE edema, +dp pulses
   Labs / Radiology
   150 K/uL
   10.4 g/dL
   67 mg/dL
   1.8 mg/dL
   35 mEq/L
   2.9 mEq/L
   42 mg/dL
   87 mEq/L
   133 mEq/L
   35.7 %
   10.4 K/uL
        [image002.jpg]
                            [**2173-1-13**]  02:21 AM
                            [**2173-1-13**]  04:59 PM
                            [**2173-1-14**]  03:01 AM
                            [**2173-1-14**]  04:56 PM
                            [**2173-1-15**]  04:25 AM
                            [**2173-1-15**]  04:58 PM
                            [**2173-1-16**]  05:17 AM
                            [**2173-1-16**]  05:15 PM
                            [**2173-1-17**]  04:30 AM
   WBC
   9.3
   10.8
   9.6
   9.8
   10.4
   Hct
   29.3
   29.4
   28.6
   33.1
   35.7
   Plt
   121
   162
   143
   129
   150
   Cr
   2.2
   2.1
   2.1
   2.0
   1.9
   1.8
   1.7
   1.9
   1.8
   Glucose
   185
   229
   201
   255
   181
   184
   109
   83
   67
   Other labs: PT / PTT / INR:34.8/43.8/3.6, Ca++:8.9 mg/dL, Mg++:2.5
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   Mr [**Known lastname **] is a 68 yo gentleman with hx CABG, MI x2, of stage IV heart
   failure admitted for CHF exacerbation (EF 20%) transferred to CCU for
   hypotension.
   # Acute on chronic systolic heart failure: LVEF of 15-20%. Patient's
   reported dry weight was 197 lbs.  In chart noted to be 204lbs.
   Admitted with volume overload on exam with elevated JVP and crackles.
   Now approaching euvolemia s/p diuresis with milrinone gtt and lasix
   gtt.  Transitioned back to PO medications although with persistent high
   potassium requirements
   - Torsemide 40mg PO BID
   -d/c metolazone
   - start aldactone 25mg daily
   -PRN nebs
   -holding BB/ACE
 end of life care
   # CAD: h/o of CAD; however patent LIMA and SMG grafts in [**6-1**], low
   concern for ACS at this time.
   -continue aspirin, plavix
   -hold Bblocker, statin given end of life care
   # Atrial fibrillation: hx afib, on warfarin since [**2172-8-29**]. Pt was
   cardioverted [**1-11**]
   -continue amiodarone, pt received 3 days of 400 mg TID. Switched to 400
   mg [**Hospital1 **] x 1 wk on [**2173-1-11**], then 200 mg [**Hospital1 **] x 2 wks, then 200 mg/day
   - d/c bblocker, digoxin and anticoagulation for end of life care
   .
   # Hypotension: resolved; monitor BP off all meds
   # Hypoxia: Patient with minimal O2 requirement currently.  Has improved
   with diuresis.
   -continue diuresis as above
   -O2 to maintain sats in 90s
   -PRN nebs
   -guaifenesin
   # CKD: Pt with history of stage II CKD, creatinine trended up with
   lasix
 currently improved to 1.7.
   -follow creatinine
   # Anemia: no evidence of active bleed, however significantly decreased
   from baseline. Guaiac negative. Fe studies c/w iron deficiency anemia.
   Crit stable for several days now.
   -guaiac all stools
   -iron supplementation
   # Metabolic alkaloisis: appears to be chronic, most likely due to
   contraction alkalosis in the setting of aggressive diuresis.
   -follow bicarb, resp status
   .
   # Seasonal allergies
   -continue fexofenadine, montelukast
   .
   # Hypothyroidism: TSH elevated but levothyroxine recently increased as
   an outpatient.
   -continue levothyroxine at current dose, re-check TSH in 4 wks.
   .
   # GERD: continue ranitidine
   .
   # Diabetes: stable on Levemir as an outpatient. Sugars stable o/n.
   -continue glargine at 30 q day
   -ISS
   .
   # Depressed mood: Flat affect. SW consult appreciated.  Palliative c/s
   appreciated.
   .
   # Bowel Incontinence: Pt with normal rectal tone and neuro exam.  Most
   likely secondary to aggressive bowel regimen in the setting of
   constipation.
   -hold bowel regimen
   .
   FEN: Regular diet with nectar thick liquids
   ACCESS: PIV's; PICC, arterial line.
   PROPHYLAXIS:
   -therapeutic on Warfarin for DVT prophylaxis
   -Pain management with tylenol, gabapentin, tramadol
   -Bowel regimen as above
   CODE: DNR/DNI confirmed with pt, no escalation of care, defibrillator
   shut off
   COMM: pt and Wife, [**Name (NI) 2316**], is HCP ([**Telephone/Fax (1) 9899**])
   DISPO: likely d/c to rehab today
   ------ Protected Section ------
   Labs
        [image002.jpg]
   WBC
   Hgb
   Hct (Serum)
   Hct (Whole blood)
   Plt
   INR
   PTT
   Na+
   K + (Serum)
   K + (Whole blood)
   Cl
   HCO3
   BUN
   Creatinine
   Glucose
   CK
   CK-MB
   Troponin T
   O2 sat (mixed venous)
   O2 sat (arterial)
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks: preparing for transfer to [**Hospital1 69**]
   Above discussed extensively with patient.
   Total time spent on patient care: 45 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) **]  on:[**2173-1-17**]
   14:14 ------

2173-01-18 07:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - metolazone d/c'd.  started aldactone 25
   - still requiring repletion of K+
   - evening torsemide held, pt > 500cc neg + incontinent episode
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-1-18**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36
C (96.8
   HR: 80 (80 - 86) bpm
   BP: 91/56(64) {86/48(58) - 99/72(77)} mmHg
   RR: 23 (13 - 23) insp/min
   SpO2: 96%
   Heart rhythm: AV Paced
   Wgt (current): 83.3 kg (admission): 91.6 kg
   Height: 72 Inch
             Total In:
                                                                  1,455 mL
                                                                    280 mL
   PO:
                                                                  1,160 mL
                                                                    180 mL
   TF:
   IVF:
                                                                    295 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  2,235 mL
                                                                    400 mL
   Urine:
                                                                  2,235 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -780 mL
                                                                   -120 mL
   Respiratory support
   SpO2: 96%
   ABG: ///33/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   166 K/uL
   10.3 g/dL
   101 mg/dL
   1.9 mg/dL
   33 mEq/L
   3.7 mEq/L
   41 mg/dL
   86 mEq/L
   130 mEq/L
   33.5 %
   11.4 K/uL
        [image002.jpg]
                            [**2173-1-13**]  04:59 PM
                            [**2173-1-14**]  03:01 AM
                            [**2173-1-14**]  04:56 PM
                            [**2173-1-15**]  04:25 AM
                            [**2173-1-15**]  04:58 PM
                            [**2173-1-16**]  05:17 AM
                            [**2173-1-16**]  05:15 PM
                            [**2173-1-17**]  04:30 AM
                            [**2173-1-17**]  08:00 AM
                            [**2173-1-18**]  04:09 AM
   WBC
   10.8
   9.6
   9.8
   10.4
   11.4
   Hct
   29.4
   28.6
   33.1
   35.7
   33.5
   Plt
   162
   143
   129
   150
   166
   Cr
   2.1
   2.1
   2.0
   1.9
   1.8
   1.7
   1.9
   1.8
   1.9
   Glucose
   [**Telephone/Fax (3) 9988**]81
   184
   109
   83
   67
   104
   101
   Other labs: PT / PTT / INR:34.8/43.8/3.6, Ca++:8.6 mg/dL, Mg++:2.4
   mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   Mr [**Known lastname **] is a 68 yo gentleman with hx CABG, MI x2, of stage IV heart
   failure admitted for CHF exacerbation (EF 20%) transferred to CCU for
   hypotension.
   # Acute on chronic systolic heart failure: LVEF of 15-20%. Patient's
   reported dry weight was 197 lbs.  In chart noted to be 204lbs.
   Admitted with volume overload on exam with elevated JVP and crackles.
   Now approaching euvolemia s/p diuresis with milrinone gtt and lasix
   gtt.  Transitioned back to PO medications although with persistent high
   potassium requirements
   - Torsemide 40mg PO BID
   -d/c metolazone
   - start aldactone 25mg daily
   -PRN nebs
   -holding BB/ACE
 end of life care
   # CAD: h/o of CAD; however patent LIMA and SMG grafts in [**6-1**], low
   concern for ACS at this time.
   -continue aspirin, plavix
   -hold Bblocker, statin given end of life care
   # Atrial fibrillation: hx afib, on warfarin since [**2172-8-29**]. Pt was
   cardioverted [**1-11**]
   -continue amiodarone, pt received 3 days of 400 mg TID. Switched to 400
   mg [**Hospital1 **] x 1 wk on [**2173-1-11**], then 200 mg [**Hospital1 **] x 2 wks, then 200 mg/day
   - d/c bblocker, digoxin and anticoagulation for end of life care
   .
   # Hypotension: resolved; monitor BP off all meds
   # Hypoxia: Patient with minimal O2 requirement currently.  Has improved
   with diuresis.
   -continue diuresis as above
   -O2 to maintain sats in 90s
   -PRN nebs
   -guaifenesin
   # CKD: Pt with history of stage II CKD, creatinine trended up with
   lasix
 currently improved to 1.7.
   -follow creatinine
   # Anemia: no evidence of active bleed, however significantly decreased
   from baseline. Guaiac negative. Fe studies c/w iron deficiency anemia.
   Crit stable for several days now.
   -guaiac all stools
   -iron supplementation
   # Metabolic alkaloisis: appears to be chronic, most likely due to
   contraction alkalosis in the setting of aggressive diuresis.
   -follow bicarb, resp status
   .
   # Seasonal allergies
   -continue fexofenadine, montelukast
   .
   # Hypothyroidism: TSH elevated but levothyroxine recently increased as
   an outpatient.
   -continue levothyroxine at current dose, re-check TSH in 4 wks.
   .
   # GERD: continue ranitidine
   .
   # Diabetes: stable on Levemir as an outpatient. Sugars stable o/n.
   -continue glargine at 30 q day
   -ISS
   .
   # Depressed mood: Flat affect. SW consult appreciated.  Palliative c/s
   appreciated.
   .
   # Bowel Incontinence: Pt with normal rectal tone and neuro exam.  Most
   likely secondary to aggressive bowel regimen in the setting of
   constipation.
   -hold bowel regimen
   .
   FEN: Regular diet with nectar thick liquids
   ACCESS: PIV's; PICC, arterial line.
   PROPHYLAXIS:
   -therapeutic on Warfarin for DVT prophylaxis
   -Pain management with tylenol, gabapentin, tramadol
   -Bowel regimen as above
   CODE: DNR/DNI confirmed with pt, no escalation of care, defibrillator
   shut off
   COMM: pt and Wife, [**Name (NI) 2316**], is HCP ([**Telephone/Fax (1) 9899**])
   DISPO: likely d/c to rehab today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2173-1-13**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: